US05808062
4-Hydroxy-3-[(phenylmethyl)thio]-6-[3-(trifluoromethoxy)phenyl]-2H-pyran-2-one:
The title compound was prepared by Method A using 3'trifluoromethoxyacetophenone (3 g, 14.7 mmol), lithium bis(trimethylsilylamide (2.45 g, 14.7 mmol), chlorotrimethylsilane (2.47 g, 14.7 mmol) and diethyl ester of [(phenylmethyl)thio]propanedioic acid (1.00 g, 3.54 mmol). m.p. 128°-132° C.; 1H NMR (400 MHz, DMSO-d6) δ 4.03 (s, 2 H), 6.81 (s, 1 H), 7.2 (m, 2 H), 7.28 (m, 3 H), 7.56 (dd, 1 H), 7.69 (t, 1 H), 7.75 (s, 1 H), 7.86 (d, 1 H); IR (KBr) 2963, 1651, 1550, 1394, 1369, 1395, 1263, 1098, 1024, 800 cm-1 ; MS (CI): m/e 395 (M+H, 37), 309 (8), 273 (7), 205 (3), 119 (10); Analysis calc'd for C19H13O4S1 F3.H2O: C, 55.34; H, 3.67; found: C, 54.94; H, 4.03.

reactant | 3'trifluoromethoxyacetophenone | 14.7 mmol, 3 g | FC(OC=1C=C(C=CC1)C(C)=O)(F)F | C9H7F3O2
reactant | lithium | [Li] | Li
reactant | trimethylsilylamide | 14.7 mmol, 2.45 g | C[Si](C)(C)[NH-]
reactant | chlorotrimethylsilane | 14.7 mmol, 2.47 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | [(phenylmethyl)thio]propanedioic acid | 3.54 mmol, 1.00 g | C1(=CC=CC=C1)CSC(C(=O)O)C(=O)O | C10H10O4S
reactant | KBr | [K+].[Br-]
solvent | H2O | O | H2O
product | 4-Hydroxy-3-[(phenylmethyl)thio]-6-[3-(trifluoromethoxy)phenyl]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC(=CC=C1)OC(F)(F)F)=O)SCC1=CC=CC=C1 | C19H13F3O4S
